US05716901
3-[(4,6-dimethoxy-2-pyrimidinyl)hydroxymethyl]-N-methyl-2-pyridine carboxamide;
4, 7-dichloro-3-(4,6-dimethoxy-2-pyrimidnyl)-3-hexanoyloxyphthalide; 3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]-N,N-dimethyl-2-pyridine carboxamide; 3,6-dichloro-2-[(4, 6-dimethoxy-2-pyrimidinyl)carbonyl]benzoic acid; 6-chloro-2-[(4,6-dimethoxy-2-pyrimidinyl)thio]benzoic acid (a.k.a. DPX-PE350 or pyrithiobac) and salts thereof.

reactant | 3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]-N,N-dimethyl-2-pyridine carboxamide | COC1=NC(=NC(=C1)OC)C(=O)C=1C(=NC=CC1)C(=O)N(C)C | C15H16N4O4
reactant | 3,6-dichloro-2-[(4, 6-dimethoxy-2-pyrimidinyl)carbonyl]benzoic acid | ClC=1C(=C(C(=O)O)C(=CC1)Cl)C(=O)C1=NC(=CC(=N1)OC)OC | C14H10Cl2N2O5
reactant | 6-chloro-2-[(4,6-dimethoxy-2-pyrimidinyl)thio]benzoic acid | ClC1=CC=CC(=C1C(=O)O)SC1=NC(=CC(=N1)OC)OC | C13H11ClN2O4S
product | 3-[(4,6-dimethoxy-2-pyrimidinyl)hydroxymethyl]-N-methyl-2-pyridine carboxamide | COC1=NC(=NC(=C1)OC)C(C=1C(=NC=CC1)C(=O)NC)O | C14H16N4O4
